US06642244B2
1-[[3-(4,8-Dihydro-5-hydroxy-4-oxo-1H-pyrazolo[4′,3′:5,6]pyrido[4,3-d]pyrimidin-2-yl)-4-propoxyphenyl]sulfonyl]-4-ethylpiperazine
A solution of 1-[[3-[5-Chloro-4,8-dihydro-8-[(4-methoxyphenyl)methyl]-4-oxo-1H-pyrazolo[4′,3′:5,6]pyrido[4,3-d]pyrimidin-2-yl]-4-propoxyphenyl]sulfonyl]-4-ethylpiperazine (20 mg) in TFA (8 mL) was heated at 70° C. under nitrogen for 2 h. After cooling to rt, the mixture was subjected to preparative HPLC to give the titled compound (15 mg). LC:2.65′ (Gradient 1); MH+: 514.

reactant | 1-[[3-[5-Chloro-4,8-dihydro-8-[(4-methoxyphenyl)methyl]-4-oxo-1H-pyrazolo[4′,3′:5,6]pyrido[4,3-d]pyrimidin-2-yl]-4-propoxyphenyl]sulfonyl]-4-ethylpiperazine | 20 mg | ClC1=NC=2C(C=3NC(=NC(C31)=O)C=3C=C(C=CC3OCCC)S(=O)(=O)N3CCN(CC3)CC)=CN(N2)CC2=CC=C(C=C2)OC | C31H34ClN7O5S
reactant | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-[[3-(4,8-Dihydro-5-hydroxy-4-oxo-1H-pyrazolo[4′,3′:5,6]pyrido[4,3-d]pyrimidin-2-yl)-4-propoxyphenyl]sulfonyl]-4-ethylpiperazine | 15 mg | OC1=NC=2C(C=3NC(=NC(C31)=O)C=3C=C(C=CC3OCCC)S(=O)(=O)N3CCN(CC3)CC)=CNN2 | C23H27N7O5S
